US07820699B2
80.2 A suspension of (3S,4S)-3-cyano-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (212 mg) in 10 ml of THF and 2.32 g of Ag2O and 0.62 ml of CH3I was heated in a sealed tube to 50° C. for 16 h. The suspension was filtered and the filtrate chromatographed on silica (heptane/AcOEt, 3:1) to give 161 mg of (3S,4S)-3-cyano-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester. Colorless oil. MS 171.4 ([M-isobutene+H]+)

reactant | (3S,4S)-3-cyano-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 212 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)C#N | C10H16N2O3
reactant | CH3I | 0.62 ml | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (3S,4S)-3-cyano-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 161 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)OC)C#N | C11H18N2O3
